US04785017
Using the procedure of Example 2, 257 mg of racemic-3,4-dihydro-7-hydroxy-2-methyl-4-oxo-8-n-propyl-2H-1-benzopyran-2-propanoic acid ethyl ester was reduced with borane.tetrahydrofuran and boron trifluoride etherate. There was obtained 195 mg of racemic-3,4-dihydro-7-hydroxy-2-methyl-8-n-propyl-2H-1-benzopyran-2-propanoic acid ethyl ester as a pale yellow oil, after chromatographic purification on silica gel.

reactant | racemic-3,4-dihydro-7-hydroxy-2-methyl-4-oxo-8-n-propyl-2H-1-benzopyran-2-propanoic acid ethyl ester | 257 mg | C(C)OC(CCC1(OC2=C(C(C1)=O)C=CC(=C2CCC)O)C)=O | C18H24O5
reactant | borane | B | BH3
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | racemic-3,4-dihydro-7-hydroxy-2-methyl-8-n-propyl-2H-1-benzopyran-2-propanoic acid ethyl ester | 195 mg | C(C)OC(CCC1(OC2=C(CC1)C=CC(=C2CCC)O)C)=O | C18H26O4
